US04940715
A mixture of 80 g of 4-cyano-1-propyl-5H-pyrazolo-[4,3-a]quinolizin-5-one (S-1) and 2.0 l of acetic anhydride was heated under reflux for 18 hours. The solvent was evapolated under reduced pressure and the residual crystals were washed with water (0.5 l), methyl alcohol (0.5 l) and chloroform (0.5 l) successively to give 84 g of 3-acetyl-4-cyano-1-propyl-5H-pyrazolo-[4,3-a]quinolizin-5-one as pale yellow crystals.

reactant | 4-cyano-1-propyl-5H-pyrazolo-[4,3-a]quinolizin-5-one | 80 g | C(#N)C1C=2C(=C3C=CC=CN3C1=O)C(=NN2)CCC | C14H12N4O
reactant | acetic anhydride | 2.0 l | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-4-cyano-1-propyl-5H-pyrazolo-[4,3-a]quinolizin-5-one | 84 g | C(C)(=O)N1N=C(C=2C1=C(C(N1C=CC=CC21)=O)C#N)CCC | C16H14N4O2
